US09284333B2
A solution of 6-bromo-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ((R)-1-phenyl-propyl)-amide (Comp. No. 12a) (200 mg, 0.551 mmol), molybdenum(0) hexacarbonyl (44 mg, 0.165 mmol), trans-di-(μ-acetato)bis[2-(di-o-tolylphosphino)benzyl]dipalladium(II) (52 mg, 0.055 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (500 mg, 3.31 mmol) and (R)-1-phenyl-propylamine (745 mg, 5.51 mmol) in dry tetrahydrofuran (5 ml) was heated for 30 min at 130° C. in a microwave reactor, then aqueous sodium hydrogencarbonate was added and the mixture was extracted 3 times with dichloromethane. The combined organic layers were dried over sodium sulfate, evaporated to dryness and the crude product was purified by reverse phase HPLC (acetonitrile/water gradient with 0.1% trifluoroacetic acid) to give 86 mg (35%) of 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6,8-dicarboxylic acid bis-[((R)-1-phenyl-propyl)-amide] as white solid. LC/MS (method 4): Rt=1.28 min; m/z=446.38 (M+H+). 1H-NMR: δ (ppm)=8.44 (1H, d), 8.15 (1H, d), 7.25-7.40 (9H, m), 7.22 (2H, q), 4.80-5.00 (4H, m), 4.15 (2H, m), 3.87 (2H, m), 1.73-1.80 (4H, m), 0.85-0.90 (6H, m).

reactant | 6-bromo-3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ((R)-1-phenyl-propyl)-amide | C1(=CC=CC=C1)[C@@H](CC)NC(=O)C=1C=C(N2C1COCC2)Br | C17H19BrN2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.31 mmol, 500 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | (R)-1-phenyl-propylamine | 5.51 mmol, 745 mg | C1(=CC=CC=C1)[C@@H](CC)N | C9H13N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-6,8-dicarboxylic acid bis-[((R)-1-phenyl-propyl)-amide] | 86 mg, 35% | C1(=CC=CC=C1)[C@@H](CC)NC(=O)C1=CC(=C2COCCN21)C(=O)N[C@H](CC)C2=CC=CC=C2 | C27H31N3O3
